US07858643B2
To a solution of 4-(4-{5-amino-6-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyrazin-2-yl}-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester (265 mg, 0.48 mmol) in CH2Cl2 was added 4N HCl/dioxane (4 mL). The mixture was stirred at ambient temperature for one hour. After evaporation, the residue was dissolved in methanol (2.5 mL), and was purified on a reverse phase C-18 reparative HPLC eluting with acetonitrile/water containing 0.1% acetic acid with a linear gradient of 10%-40%. After lyophilization, 3-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-5-(1-piperidin-4-yl-1H-pyrazol-4-yl)-pyrazin-2-ylamine acetate was obtained as a white solid (125 mg, 51% yield).

reactant | 4-(4-{5-amino-6-[1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyrazin-2-yl}-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.48 mmol, 265 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)C1=NC(=C(N=C1)N)OC(C)C1=C(C(=CC=C1Cl)F)Cl | C25H29Cl2FN6O3
reactant | HCl dioxane | 4N, 4 mL | Cl.O1CCOCC1
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-5-(1-piperidin-4-yl-1H-pyrazol-4-yl)-pyrazin-2-ylamine acetate | C(C)(=O)O.ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C(=NC=C(N1)C=1C=NN(C1)C1CCNCC1)N | InChI=1S/C20H21Cl2FN6O.C2H4O2/c1-11(17-14(21)2-3-15(23)18(17)22)30-20-19(24)26-9-16(28-20)12-8-27-29(10-12)13-4-6-25-7-5-13;1-2(3)4/h2-3,8-11,13,25H,4-7H2,1H3,(H2,24,26);1H3,(H,3,4)/t11-;/m1./s1
